US09233956B2
N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-thiophenesulfonamide
Following a procedure analogous to the procedure described in Intermediate 14 using 4-[4-(3-amino-2-fluorophenyl)-2-(1,1-dimethylethyl)-1,3-thiazol-5-yl]-2-pyrimidinamine (80 mg, 0.233 mmol) and 3-thiophenesulfonyl chloride (47 mg, 0.256 mmol), the title compound was obtained as a white solid (68 mg, 56% yield). MS (ESI): 490.0 [M+H]+.

reactant | 4-[4-(3-amino-2-fluorophenyl)-2-(1,1-dimethylethyl)-1,3-thiazol-5-yl]-2-pyrimidinamine | 0.233 mmol, 80 mg | NC=1C(=C(C=CC1)C=1N=C(SC1C1=NC(=NC=C1)N)C(C)(C)C)F | C17H18FN5S
reactant | 3-thiophenesulfonyl chloride | 0.256 mmol, 47 mg | S1C=C(C=C1)S(=O)(=O)Cl | C4H3ClO2S2
product | N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-thiophenesulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=CSC=C1)F | C21H20FN5O2S3
